US07851626B2
N-tert-butoxycarbonyl-piperazine (1.86 g, 10 mmol, Lancaster), N-Fmoc-4-oxo-piperidine (3.21 g, 10 mmol, Aldrich) and titanium(IV) isopropoxide (3.72 mL, Aldrich) were combined, and the mixture was stirred at room temperature for 1 h. Then ethyl alcohol (10 mL) was added followed by sodium cyanoborohydride (0.47 g, 7.48 mmol, Aldrich), and the mixture was stirred overnight. Water (2 mL) was added and the mixture was filtered. The solid was washed with ethyl alcohol and the filtrate was combined. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (ISCO machine, silica gel, eluting with 20% ethyl acetate in hexane for a period of 30 min) to give 4-(1-Fmoc-piperidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester as a white foam (1.02 g).

reactant | N-tert-butoxycarbonyl-piperazine | 10 mmol, 1.86 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-Fmoc-4-oxo-piperidine | 10 mmol, 3.21 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1CCC(CC1)=O | C20H19NO3
reactant | ethyl alcohol | 10 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 7.48 mmol, 0.47 g | C(#N)[BH3-].[Na+]
catalyst | titanium(IV) isopropoxide | 3.72 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Water | 2 mL | O | H2O
product | 4-(1-Fmoc-piperidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 1.02 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCN(CC1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C29H37N3O4
